US03973016
6-AMINO-1,2-DIHYDRO-2-IMINO-4-THIOMORPHOLINO-1-PYRIMIDINOL
A mixture of 16.1 g of 6-amino-4-chloro-1,2-dihydro-2-imino-1-pyrimidinol, 32.1 g of thiomorphline, and 75 ml of dimethyl formamide is heated at 110°C in a nitrogen atmosphere for 17 hours. The solvent is removed under high vacuum. The residue is dissolved in 2 normal hydrochloric acid, and the resulting solution made basic with 5% ammonium hydroxide. There is deposited 13.0 g (57%) of a crystalline solid mp 242°(dec). Recrystallization from methanol-ethanol gives an off-white crystalline solid, mp 246°C(dec).

reactant | 6-amino-4-chloro-1,2-dihydro-2-imino-1-pyrimidinol | 16.1 g | NC1=CC(=NC(N1O)=N)Cl | C4H5ClN4O
reactant | thiomorphline | 32.1 g | N1CCSCC1 | C4H9NS
solvent | dimethyl formamide | 75 ml | CN(C=O)C | C3H7NO
product | 6-AMINO-1,2-DIHYDRO-2-IMINO-4-THIOMORPHOLINO-1-PYRIMIDINOL | NC1=CC(=NC(N1O)=N)N1CCSCC1 | C8H13N5OS
